US08349824B2
A mixture of tert-butyl 2-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamate (755 mg, 2.43 mmol) in hydrochloric acid (5 N in ether, 15 ml, 75.0 mmol) is stirred for 7 hours at room temperature. The solvent is evaporated and the yellowish solid is dissolved in water and made basic with sodium hydroxide 32%; the precipitated solid is collected by filtration, washed with water and dried affording 2-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-amine (471 mg, 92%) as a light brown solid. mp.: 228-233° C. MS: m/z=212.1 (M+H+).

reactant | tert-butyl 2-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamate | 2.43 mmol, 755 mg | N1=CC(=CC=C1)C1=NN2C(C=C(C=C2)NC(OC(C)(C)C)=O)=N1 | C16H17N5O2
reactant | hydrochloric acid | 75.0 mmol, 5 N, 15 ml | Cl | ClH
product | 2-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-amine | 471 mg, 92% | N1=CC(=CC=C1)C1=NN2C(C=C(C=C2)N)=N1 | C11H9N5
